US06121285
5-Amino-7-[(3R,4R)-3-(1-aminocyclopropyl)-4-methyl-1-pyrrolidinyl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid
(3R,4R)-1-Benzyloxycarbonyl-3-(1-tert-butoxycarbonylaminocyclopropyl)-4-methylpyrrolidine (793 mg, 2.12 mmol) was dissolved in ethanol (50 ml), and the solution was mixed with 5% palladium-carbon (790 mg) to carry out hydrogenation under a pressure of 5 atmospheres. After completing the reaction, the 5% palladium carbon was removed by filtration and ethanol was evaporated. The thus obtained residue was dissolved in dimethyl sulfoxide (8 ml), and the solution was mixed with triethylamine (2 ml) and 5-amino-6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid (330 mg, 1.06 mmol) and stirred at 150° C. for 18 hours. After completing the reaction, dimethyl sulfoxide was evaporated, and the thus obtained residue was mixed with chloroform (100 ml) and washed with 10% citric acid (100 ml) and saturated brine (100 ml) in that order. The organic layer was dried over anhydrous sodium sulfate and then the solvent was evaporated. To the thus obtained residue, which was cooled in an ice bath, was added dropwise concentrated hydrochloric acid (10 ml), followed by 1 hour of stirring at room temperature. After completing the reaction, the reaction solution was washed with dichloromethane (20 ml). The aqueous layer was adjusted to pH 12 with a sodium hydroxide aqueous solution and then to pH 7.4 with hydrochloric acid, subsequently carrying out extraction with chloroform (100 ml×4). The organic layers were combined and dried over anhydrous sodium sulfate and then the solvent was evaporated. The thus obtained residue was subjected to silica gel thin layer chromatography and developed with the bottom layer of a mixture solvent of chloroform:methanol=3:1, and then the resulting silica gel was scratched off and extracted with the same solvent system. The solvent was evaporated and the thus obtained residue was dissolved in a 1 N hydrochloric acid aqueous solution (6 ml) and stirred at room temperature for 10 minutes. After evaporating the solvent, the resulting crude product was recrystallized from isopropyl alcohol to obtain 20.1 mg (4%) of the title compound.

reactant | (3R,4R)-1-Benzyloxycarbonyl-3-(1-tert-butoxycarbonylaminocyclopropyl)-4-methylpyrrolidine | 2.12 mmol, 793 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)C)C1(CC1)NC(=O)OC(C)(C)C | C21H30N2O4
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | 5-amino-6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 1.06 mmol, 330 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F3N2O3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 790 mg | [C].[Pd]
product | 5-Amino-7-[(3R,4R)-3-(1-aminocyclopropyl)-4-methyl-1-pyrrolidinyl]-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 20.1 mg, 4% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@@H]([C@H](C1)C)C1(CC1)N)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C22H26F2N4O3
